US04409238
In 20 g of benzene were dissolved 2.0 g of α-(3,3-dibromoallyl) isovaleric acid, followed by the addition of 4.7 g of thionyl chloride and 2 drops of N,N-dimethylformamide. The mixture was refluxed overnight and, then, distilled to remove the low-boiling fraction. As the residue there was obtained α-(3,3-dibromoallyl)isovaleroyl chloride. This α-(3,3-dibromoallyl) isovaleroyl chloride was dissolved in 30 g of dry benzene and 1.5 g of α-ethynyl-3-phenoxybenzyl alcohol were added. This was further followed by the dropwise addition of 1.6 g of pyridine and the mixture was stirred at room temperature overnight. Thereafter, the reaction mixture was further stirred at 40°-50° C. for 2 hours, after which it was diluted with diethyl ether, washed with dilute hydrochloric acid and water, dried over anhydrous magnesium sulfate and distilled to remove the low-boiling fraction. The resultant viscous oil was purified by column chromatography to recover 2.0 g of α-ethynyl-3-phenoxybenzyl α-(3,3-dibromoallyl)isovalerate (Compound [10]) which was shown to have the properties indicated below [yield: 59% based on α-(3,3-dibromoallyl)isovaleric acid].

reactant | α-(3,3-dibromoallyl) isovaleric acid | 2.0 g | BrC(=CCC(C(=O)O)C(C)C)Br | C8H12Br2O2
reactant | thionyl chloride | 4.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 g | C1=CC=CC=C1 | C6H6
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | α-(3,3-dibromoallyl)isovaleroyl chloride | yield: 59% | BrC(=CCC(C(=O)Cl)C(C)C)Br | C8H11Br2ClO
